US04892875
A mixture of m-chlorobenzaldehyde, 3-(4-benzhydryl-1-piperazinyl)propyl acetoacetate and methyl 3-aminocrotonate was worked up in isopropyl alcohol in the same manner as Example 1 to give 3-(4-benzhydryl-1-piperazinyl)propyl methyl 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate as an oil. This product was further treated with methanolic hydrogen chloride. Recrystallization from methanol gave the dihydrochloride as colorless crystals, m.p. 169°-172° C. Yield 45.6%.

reactant | m-chlorobenzaldehyde | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | 3-(4-benzhydryl-1-piperazinyl)propyl acetoacetate | C(CC(=O)C)(=O)OCCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C24H30N2O3
reactant | methyl 3-aminocrotonate | N\C(=C/C(=O)OC)\C | C5H9NO2
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 3-(4-benzhydryl-1-piperazinyl)propyl methyl 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)OC)C)C)C(=O)OCCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C36H40ClN3O4
